US06313153B1
Synthesis of (Z)-N-(3-methoxyphenethyl)-3-phenyl-3-(3-pyridyl)-2-propenoic acid amide (Compound 69)
Starting from (Z)-3-phenyl-3-(3-pyridyl)-2-propenoic acid hydrochloride (1.00 g) and 3-methoxyphenethylamine (0.60 g), the titled compound (1.33 g, 98%) was obtained according to the method similar to that of Example 9.

reactant | (Z)-3-phenyl-3-(3-pyridyl)-2-propenoic acid hydrochloride | 1.00 g | Cl.C1(=CC=CC=C1)/C(=C/C(=O)O)/C=1C=NC=CC1
reactant | 3-methoxyphenethylamine | 0.60 g | COC=1C=C(CCN)C=CC1 | C9H13NO
product | (Z)-N-(3-methoxyphenethyl)-3-phenyl-3-(3-pyridyl)-2-propenoic acid amide | 1.33 g, 98% | COC=1C=C(CCNC(\C=C(/C=2C=NC=CC2)\C2=CC=CC=C2)=O)C=CC1 | C23H22N2O2
